US03953463
3-(4-Trifluoromethylbenzoyl)acrylic Acid.
An alternative procedure is as follows. A mixture of 4-trifluoromethylacetophenone (18.8 g) glyoxylic acid monohydrate (18.8 g), Ac2O (20 ml) and a drop of Et3N was heated to 135°, internal temperature. More Et3N (2 ml) was added, and the mixture was held at 135° for 20 minutes. The mixture was cooled and evaporated to dryness in vacuo. The solid residue was digested with H2O, filtered, dried and recrystallized from C6H6 to give the title compound, 12.2 g (50%), mp 149°-151°.

reactant | 4-trifluoromethylacetophenone | 18.8 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | Ac2O | 20 ml | CC(=O)OC(=O)C | C4H6O3
solvent | Et3N | 2 ml | CCN(CC)CC | C6H15N
product | 3-(4-Trifluoromethylbenzoyl)acrylic Acid | FC(C1=CC=C(C(=O)C=CC(=O)O)C=C1)(F)F | C11H7F3O3
